US07326732B2
(ii) {3-[(Biphenyl-3-carbonyl)-amino]-phenyl}-acetic acid ethyl ester
[3-(3-Bromo-benzoylamino)-phenyl]-acetic acid ethyl ester (203 mg, 0.56 mmol) was coupled to phenylboronic acid using Method E, except that the reaction mixture was heated at 80° C. The crude residue was purified by column chromatography using 20% EtOAc in heptane to give the title compound.

reactant | [3-(3-Bromo-benzoylamino)-phenyl]-acetic acid ethyl ester | 0.56 mmol, 203 mg | C(C)OC(CC1=CC(=CC=C1)NC(C1=CC(=CC=C1)Br)=O)=O | C17H16BrNO3
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | {3-[(Biphenyl-3-carbonyl)-amino]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)NC(=O)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C23H21NO3
